US07531547B2
To N-(4-Acetyl-3,5-dimethoxy-phenyl)-2,2,2-trifluoro-acetamide (4.3 g, 14.8 mmol) dissolved in methanol (90 mL) was added anhydrous potassium carbonate (4.67 g, 33.8 mmol). After refluxing for 18 hours, the reaction mixture was cooled and concentrated under reduced pressure. The concentrate was extracted with ethyl acetate and the organic layer was washed with brine, dried using anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 1-(4-Amino-2,6-dimethoxy-phenyl)-ethanone (2.5 g, 87%) as a pale yellow solid.

reactant | N-(4-Acetyl-3,5-dimethoxy-phenyl)-2,2,2-trifluoro-acetamide | 14.8 mmol, 4.3 g | C(C)(=O)C1=C(C=C(C=C1OC)NC(C(F)(F)F)=O)OC | C12H12F3NO4
reactant | potassium carbonate | 33.8 mmol, 4.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 90 mL | CO | CH4O
product | 1-(4-Amino-2,6-dimethoxy-phenyl)-ethanone | 2.5 g, 87% | NC1=CC(=C(C(=C1)OC)C(C)=O)OC | C10H13NO3
